US08497274B2
(v) Production of N-[3-({7-cyano-2-[(cyclopropylcarbonyl)amino]-1,3-benzothiazol-6-yl}oxy)phenyl]-3-(1-cyano-1-methylethyl)benzamide
To a solution of N-{3-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide (150 mg, 0.33 mmol) in pyridine (2 mL) was added cyclopropanecarbonyl chloride (59 μL, 0.66 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure. The residue was suspended in ethyl acetate (50 mL), washed with 5% aqueous sodium hydrogen carbonate solution (50 mL) and saturated brine (50 mL), successively, and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=30/70→100/0), and the obtained solution was concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound (119 mg, 69%) as a white powder.

reactant | N-{3-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide | 0.33 mmol, 150 mg | NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O | C25H19N5O2S
reactant | cyclopropanecarbonyl chloride | 0.66 mmol, 59 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-({7-cyano-2-[(cyclopropylcarbonyl)amino]-1,3-benzothiazol-6-yl}oxy)phenyl]-3-(1-cyano-1-methylethyl)benzamide | 119 mg, 69% | C(#N)C1=C(C=CC=2N=C(SC21)NC(=O)C2CC2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O | C29H23N5O3S
